US07790756B2
To a solution of LiAlH4 (699 mg, 18.4 mmol) in THF (15 mL) was added tert-butyl 4-(4-amino-3-fluorophenoxy)picolinate (1.4 g, 4.6 mmol) at 0° C. under N2. The mixture was stirred at 0° C. for 2 h. The reaction mixture was quenched with 10% aq NaOH solution (4 mL), the resultant suspension was filtered and the filtrate was extracted with EtOAc (3×30 mL) to give (4-(4-amino-3-fluorophenoxy)pyridin-2-yl)methanol (700 mg, 70% yield). MS (ESI) m/z: 235.1 (M+H+).

reactant | LiAlH4 | 18.4 mmol, 699 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tert-butyl 4-(4-amino-3-fluorophenoxy)picolinate | 4.6 mmol, 1.4 g | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)OC(C)(C)C)C=C1)F | C16H17FN2O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (4-(4-amino-3-fluorophenoxy)pyridin-2-yl)methanol | 700 mg, 70% yield | NC1=C(C=C(OC2=CC(=NC=C2)CO)C=C1)F | C12H11FN2O2
